US07947689B2
4-Methyl-6,7-dihydro-thieno[3,2-c]pyridine
In close analogy to the procedure described above, 2,2,2-Trifluoro-N-(2-thiophen-2-yl-ethyl)-acetamide is reacted with phosphorus pentoxide to provide the title compound.

reactant | 2,2,2-Trifluoro-N-(2-thiophen-2-yl-ethyl)-acetamide | FC(C(=O)NCCC=1SC=CC1)(F)F | C8H8F3NOS
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 4-Methyl-6,7-dihydro-thieno[3,2-c]pyridine | Yield: 25% | CC1=NCCC2=C1C=CS2 | C8H9NS
